US03983111
2-Phenylmorpholine
N-(2'-hydroxy-2'-phenylethyl)-ethanolamine (5.3 g.) was dissolved in 6N hydrochloric acid (100 ml.) and the solution heated at 110° for 4 hours. The mixture was basified with sodium hydroxide solution and extracted into ether. The extract was washed with water, dried over anhydrous sodium sulphate and evaporated to give a crude sample of title compound (Ig.) as an orange oil.

reactant | N-(2'-hydroxy-2'-phenylethyl)-ethanolamine | 5.3 g | OC(CNCCO)C1=CC=CC=C1 | C10H15NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 100 ml | Cl | ClH
product | 2-Phenylmorpholine | C1(=CC=CC=C1)C1CNCCO1 | C10H13NO
